US07632531B2
N-ethyl 4-(2,2,3-trimethyl-3-penten-1-yl)-2E-butenamide
4-(2,2,3-Trimethyl-3-penten-1-yl)-2E-butenoic acid 1 eq, ethyl chloroformate 1.5 eq, triethylamine 1.5 eq, ethylamine 1.5 eq as a 2.0M solution in THF, quench with 10% sodium chloride solution, yield=22%.

reactant | 4-(2,2,3-Trimethyl-3-penten-1-yl)-2E-butenoic acid | 1 eq | CC(CC/C=C/C(=O)O)(C(=CC)C)C | C12H20O2
reactant | ethyl chloroformate | 1.5 eq | ClC(=O)OCC | C3H5ClO2
reactant | triethylamine | 1.5 eq | C(C)N(CC)CC | C6H15N
reactant | ethylamine | 1.5 eq | C(C)N | C2H7N
reactant | sodium chloride | [Cl-].[Na+]
solvent | THF | C1CCOC1 | C4H8O
product | N-ethyl 4-(2,2,3-trimethyl-3-penten-1-yl)-2E-butenamide | yield=22% | C(C)NC(\C=C\CCC(C(=CC)C)(C)C)=O | C14H25NO
